US05101068
Dibenzyl Fluoromalonate.
A 3-neck, 5-L round-bottom flask equipped with a vacuum distillation head, a thermometer, and a magnetic stir bar was charged with dimethyl fluoromalonate (339 g assayed at 83% purity by VPC, 1.88 mol), benzyl alcohol (935 mL, 9.04 mol), toluene (846 mL), and p-toluenesulfonic acid monohydrate (21.5 g, 0.113 mol). The mixture was heated under vacuum (10-15 inches of Hg) until all of the toluene had distilled, then at 28-29 inches of Hg (water aspirator vacuum), the reaction temperature being maintained at 100° to 115° C. The progress of the reaction was monitored by 19F NMR. After a total of 7 hours, the heat was removed, and the mixture was allowed to cool, with continued stirring. When the temperature had lowered to 75° C., isopropanol (450 mL) was added. When the temperature had lowered to 55° C., hexane (1 L) was added. The product crystallized out and the mixture was placed in the freezer overnight. The product was filtered, washed with hexane (2×1 L), sucked dry, and dried overnight in vacuo. The yield was 452 g (96% pure by weight). A second crop of 29 g was obtained from the combined filtrates and washings, for a total yield of 81%.

reactant | dimethyl fluoromalonate | 1.88 mol, 339 g | FC(C(=O)OC)C(=O)OC | C5H7FO4
reactant | benzyl alcohol | 9.04 mol, 935 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | p-toluenesulfonic acid monohydrate | 0.113 mol, 21.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 846 mL | C1(=CC=CC=C1)C | C7H8
product | Dibenzyl Fluoromalonate | yield of 81% | FC(C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C17H15FO4
